* Created by KLayout
*** My special header ***

* cell tr_1um_AriyoshiNaoki1016jp
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_AriyoshiNaoki1016jp P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7
+ P9 VDD VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* device instance $1 r270 *1 -800.9,-63.35 PMOS
XM$1 VDD P4 P6 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $2 r270 *1 -800.9,-73.45 PMOS
XM$2 P6 P5 VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $3 r270 *1 -823.3,-63.35 NMOS
XM$3 P6 P4 \$I46 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $4 r270 *1 -823.3,-73.45 NMOS
XM$4 \$I46 P5 VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $5 r0 *1 803.1,726.1 PMOS
XM$5 VDD \$43 P14 VDD PMOS L=1u W=40u AS=180p AD=180p PS=98u PD=98u
* device instance $7 r0 *1 803.1,681.1 NMOS
XM$7 VSS \$43 P14 VSS NMOS L=1u W=20u AS=90p AD=90p PS=58u PD=58u
* device instance $9 r0 *1 715.15,726.05 PMOS
XM$9 VDD P12 \$43 VDD PMOS L=1u W=10u AS=45p AD=45p PS=29u PD=29u
* device instance $10 r0 *1 715.15,681.05 NMOS
XM$10 VSS P12 \$43 VSS NMOS L=1u W=5u AS=22.5p AD=22.5p PS=19u PD=19u
* device instance $11 r0 *1 688.4,-575.4 PMOS
XM$11 VDD P10 P11 VDD PMOS L=1u W=40u AS=180p AD=180p PS=98u PD=98u
* device instance $13 r0 *1 688.4,-620.4 NMOS
XM$13 VSS P10 P11 VSS NMOS L=1u W=20u AS=90p AD=90p PS=58u PD=58u
* device instance $15 r90 *1 577.15,847.15 PMOS
XM$15 VDD \$59 P15 VDD PMOS L=1u W=40u AS=180p AD=180p PS=98u PD=98u
* device instance $17 r90 *1 622.15,847.15 NMOS
XM$17 VSS \$59 P15 VSS NMOS L=1u W=20u AS=90p AD=90p PS=58u PD=58u
* device instance $19 r0 *1 -341.8,-798 PMOS
XM$19 VDD P7 P9 VDD PMOS L=1u W=10u AS=45p AD=45p PS=29u PD=29u
* device instance $20 r0 *1 -341.8,-843 NMOS
XM$20 VSS P7 P9 VSS NMOS L=1u W=5u AS=22.5p AD=22.5p PS=19u PD=19u
* device instance $21 r90 *1 577.15,781.35 PMOS
XM$21 VDD P13 \$59 VDD PMOS L=1u W=10u AS=45p AD=45p PS=29u PD=29u
* device instance $22 r90 *1 622.15,781.35 NMOS
XM$22 VSS P13 \$59 VSS NMOS L=1u W=5u AS=22.5p AD=22.5p PS=19u PD=19u
* device instance $23 r270 *1 124.2,769.95 PMOS
XM$23 VDD P2 \$I51 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $24 r270 *1 124.2,759.85 PMOS
XM$24 \$I51 P3 VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $25 r270 *1 101.8,769.95 NMOS
XM$25 \$I51 P2 \$I54 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $26 r270 *1 101.8,759.85 NMOS
XM$26 \$I54 P3 VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $27 r270 *1 124.2,718.2 PMOS
XM$27 VDD \$I51 \$I47 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $28 r270 *1 124.2,708.1 PMOS
XM$28 \$I47 P3 VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $29 r270 *1 101.8,718.2 NMOS
XM$29 \$I47 \$I51 \$I55 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u
+ PD=12.5u
* device instance $30 r270 *1 101.8,708.1 NMOS
XM$30 \$I55 P3 VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $31 r270 *1 124.2,821.7 PMOS
XM$31 VDD \$I51 \$I53 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $32 r270 *1 124.2,811.6 PMOS
XM$32 \$I53 P2 VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $33 r270 *1 101.8,821.7 NMOS
XM$33 \$I53 \$I51 \$I56 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u
+ PD=12.5u
* device instance $34 r270 *1 101.8,811.6 NMOS
XM$34 \$I56 P2 VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $35 r270 *1 252.7,725 PMOS
XM$35 VDD \$I50 P12 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $36 r270 *1 252.7,714.9 PMOS
XM$36 P12 \$I51 VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $37 r270 *1 230.3,725 NMOS
XM$37 P12 \$I50 \$I57 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $38 r270 *1 230.3,714.9 NMOS
XM$38 \$I57 \$I51 VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $39 r270 *1 252.7,774.1 PMOS
XM$39 VDD \$I52 P13 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $40 r270 *1 252.7,764 PMOS
XM$40 P13 \$I49 VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $41 r270 *1 230.3,774.1 NMOS
XM$41 P13 \$I52 \$I58 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $42 r270 *1 230.3,764 NMOS
XM$42 \$I58 \$I49 VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $43 r270 *1 252.7,823.2 PMOS
XM$43 VDD \$I50 \$I52 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $44 r270 *1 252.7,813.1 PMOS
XM$44 \$I52 P1 VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $45 r270 *1 230.3,823.2 NMOS
XM$45 \$I52 \$I50 \$I59 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u
+ PD=12.5u
* device instance $46 r270 *1 230.3,813.1 NMOS
XM$46 \$I59 P1 VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $47 r270 *1 189.75,720.5 PMOS
XM$47 VDD \$I50 \$I49 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $48 r270 *1 189.75,710.4 PMOS
XM$48 \$I49 \$I48 VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $49 r270 *1 167.35,720.5 NMOS
XM$49 \$I49 \$I50 \$I60 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u
+ PD=12.5u
* device instance $50 r270 *1 167.35,710.4 NMOS
XM$50 \$I60 \$I48 VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $51 r270 *1 189.75,771.7 PMOS
XM$51 VDD P1 \$I50 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $52 r270 *1 189.75,761.6 PMOS
XM$52 \$I50 \$I48 VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $53 r270 *1 167.35,771.7 NMOS
XM$53 \$I50 P1 \$I61 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $54 r270 *1 167.35,761.6 NMOS
XM$54 \$I61 \$I48 VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $55 r270 *1 189.75,822.9 PMOS
XM$55 VDD \$I53 \$I48 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $56 r270 *1 189.75,812.8 PMOS
XM$56 \$I48 \$I47 VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $57 r270 *1 167.35,822.9 NMOS
XM$57 \$I48 \$I53 \$I62 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u
+ PD=12.5u
* device instance $58 r270 *1 167.35,812.8 NMOS
XM$58 \$I62 \$I47 VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
.ENDS tr_1um_AriyoshiNaoki1016jp

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 VDD P13 VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 VDD P11 VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 VDD P4 VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 VDD P15 VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 VDD P14 VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 VDD P5 VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 VDD P6 VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 VDD P12 VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 VDD P10 VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 VDD P2 VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 VDD P3 VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 VDD P1 VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 VDD P7 VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 VDD P9 VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD|VDD PAD|VDD PAD|VDD PAD|VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD|VDD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD|VSS VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD|VSS PAD|VSS PAD|VSS PAD|VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin VDD
* pin PAD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA VDD PAD VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_ANA
